US04975435
d. 7-Pentylisatin-3-oxime
A suspension of the isatin described in Example 10c (5.51 g) in ethanol (20 ml) was warmed slightly followed by addition of hydroxylamine hydrochloride (2.47 g) dissolved in water (10 ml). The mixture was warmed to about 80° with stirring for 10 minutes, followed by cooling to ambient temperature and stirring for 30 minutes. The precipitated yellow solid was filtered off, washed with water and dried to afford the title product (4.50 g, 76%) as a fluffy yellow powder; tlc, Rf =0.16, silica gel, ethyl acetate:hexane (2:3).

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | hydroxylamine hydrochloride | 2.47 g | Cl.NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 7-Pentylisatin-3-oxime | 4.50 g, 76% | C(CCCC)C=1C=CC=C2C(C(NC12)=O)=NO | C13H16N2O2
